US06900324B2
Synthesis of Methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate
To a suspension of 5,6-diamino-nicotinic acid methyl ester (1 eq., 5.1 g) in cyclohexanone (50 ml) bromobutanone (1.2 equiv., 3.9 ml) was added over 10 min. The mixture was heated to 100° C. (inner temperature) and stirred 2.5 h at this temperature. The mixture was cooled to room temperature and the pale solid was filtered off and was washed with TBME (3×10 ml). Drying under reduced pressure at 45° C. Yield: 6.53 g (75%).

reactant | 5,6-diamino-nicotinic acid methyl ester | 5.1 g, 1 eq. | COC(C1=CN=C(C(=C1)N)N)=O | C7H9N3O2
reactant | cyclohexanone | 50 ml, 1.2 equiv. | C1(CCCCC1)=O | C6H10O
product | Methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C11H13N3O2
